US06525207B1
A four-neck flask equipped with a thermometer, stirrer and condenser tube was charged with 100 g (0.46 mol) of 2-chlorocyclododecanone and 122 g of tetrahydrofuran, and at −10 to 0° C., a THF solution of vinylmagnesium chloride (0.82 mol) was added dropwise. The mixture was allowed to stand for reaction for 30 minutes, and 420 g (3.27 mol) of N,N′-dimethylpropyleneurea (DMPU) was added. The mixture was heated to 50° C. and allowed to stand for reaction for 1 hour, and saturated ammonium chloride aqueous solution was added dropwise for inactivation. The reaction mixture was subjected to extraction with hexane, and the solvent was recovered. The residue was distilled to obtain 1-vinyl-13-oxabicyclo[10.1.0]tridecane (80 g, 0.38 mol, chemical purity 98%, cis form:trans form=88:12). The yield was 82%.

reactant | 2-chlorocyclododecanone | 0.46 mol, 100 g | ClC1C(CCCCCCCCCC1)=O | C12H21ClO
reactant | vinylmagnesium chloride | 0.82 mol | C(=C)[Mg]Cl
reactant | N,N′-dimethylpropyleneurea | 3.27 mol, 420 g | CN1CCCN(C1=O)C | C6H12N2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 122 g | O1CCCC1 | C4H8O
product | 1-vinyl-13-oxabicyclo[10.1.0]tridecane | 0.38 mol, 80 g, yield was 82% | C(=C)C12CCCCCCCCCCC2O1 | C14H24O
